US05998433
b) Synthesis of N,N-dimethyl-[5-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.200 g (0.604 mmol) of 5-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of acetic acid, 0.082 ml (0.91 mmol) of 50% aqueous dimethylamine and 0.073 ml (0.73 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 60 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1 to 25/1) to yield the desired product.

reactant | 5-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 0.604 mmol, 0.200 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)N2CC3=C(CC2)OC=C3)C=CC1 | C21H17NO3
reactant | dimethylamine | 0.91 mmol, 0.082 ml | CNC | C2H7N
reactant | formaldehyde | 0.73 mmol, 0.073 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[5-(3-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)=O | C24H24N2O3
